US06118006
6.25 ml of concentrated hydrochloric acid are added, with stirring, to a solution of 17.2 g of 1-[2-(2-naphthyl)ethyl]-4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine base, obtained according to Example 1, in 200 ml of absolute ethanol. The resulting mixture is refluxed for 90 minutes, after which the solution is first filtered hot and then evaporated to remove about 100 ml of solvent. 20 ml of distilled water are added to the mixture, the temperature of the solution is brought to 75° C. and said solution is then cooled to 5° C. at a rate of 10° C. per hour. The mixture is kept at 5° C. for about one hour and the product is then collected by filtration and washed with a mixture of 32 ml of absolute ethanol and 3 ml of water. The product is dried under vacuum at 50° C. to give 1-[2-(2-naphthyl)ethyl]-4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine hydrochloride.

reactant | hydrochloric acid | 6.25 ml | Cl | ClH
reactant | 1-[2-(2-naphthyl)ethyl]-4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine | 17.2 g | C1=C(C=CC2=CC=CC=C12)CCN1CCC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C24H22F3N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-[2-(2-naphthyl)ethyl]-4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)CCN1CCC(=CC1)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C24H22F3N.ClH/c25-24(26,27)23-7-3-6-22(17-23)20-11-14-28(15-12-20)13-10-18-8-9-19-4-1-2-5-21(19)16-18;/h1-9,11,16-17H,10,12-15H2;1H
